US07728029B2
A solution of methyl acetoacetate (5.0 mL, 46.33 mmol) and N,N-dimethylformamide dimethylacetal (6.8 mL, 47.95 mmol) was heated to 80° C. for 2.3 h. At this time, the reaction was cooled to 25° C. and was then concentrated in vacuo to afford 2-dimethylaminomethylene-3-oxo-butyric acid methyl ester (7.43 g, 94%) as a red/black solid. This material was used without further purification.

reactant | methyl acetoacetate | 46.33 mmol, 5.0 mL | C(CC(=O)C)(=O)OC | C5H8O3
reactant | N,N-dimethylformamide dimethylacetal | 47.95 mmol, 6.8 mL | COC(N(C)C)OC | C5H13NO2
product | 2-dimethylaminomethylene-3-oxo-butyric acid methyl ester | 7.43 g, 94% | COC(C(C(C)=O)=CN(C)C)=O | C8H13NO3
